US07576089B2
A solution of n-butyllithium (17.1 mL of 1.6 M solution in hexane, 27.35 mmol) was added to 8-(1,3-thiazol-2-yl)-1,4-dioxaspiro[4.5]decan-8-ol (3.00 g, 12.43 mmol) in THF (50 mL) at −78° C. with stirring under N2. After being stirred at −78° C. for 1 h, dry ice (10 g, 227 mmol) was added to the lithiated compound solution and stirred for 2 h at −78° C. Water was added and the solution was warmed to room temperature. The mixture was then treated with 1N HCl to pH 3 to 4 and extracted with EtOAc (3×). The combined organic layers were washed with saturated NaCl solution, dried (MgSO4), and concentrated and chromatographed (EtOAc to 1% AcOH/EtOAc) to give 3.23 g of 2-(8-hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)-1,3-thiazole-4-carboxylic acid. MS (EI) (M+H)+=286.0.

reactant | n-butyllithium | 27.35 mmol, 1.6 M, 17.1 mL | C(CCC)[Li]
reactant | 8-(1,3-thiazol-2-yl)-1,4-dioxaspiro[4.5]decan-8-ol | 12.43 mmol, 3.00 g | S1C(=NC=C1)C1(CCC2(OCCO2)CC1)O | C11H15NO3S
reactant | dry ice | 227 mmol, 10 g | C(=O)=O | CO2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 2-(8-hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)-1,3-thiazole-4-carboxylic acid | 3.23 g | OC1(CCC2(OCCO2)CC1)C=1SC=C(N1)C(=O)O | C12H15NO5S
